US05665718
5.40 g (33.3 mmol) of 1,1'-carbonyldiimidazole were added to a solution of 5.40 g (30.5 mmol) of BOC-glycine in 150 ml of N,N-dimethylformamide and the mixture was stirred at 50° for 30 minutes. Subsequently, 7.70 g (7.58 mmol) of (E)- and/or (Z)-7-(amino-hydroxyiminomethyl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[3,2-f][1,4]diazepin-4-one were added and the mixture was stirred at 90° for 15 hours. The brown solution obtained was evaporated in a high vacuum and the brown residue obtained was chromatographed (silica gel, methylene chloride/methanol 19:1). There were obtained 8.40 g (73%) of 7-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[3,2-f][1,4]diazepin-4-one as a colourless foam, Rf=0.35 (silica gel, methylene chloride/methanol 19:1).

reactant | 1,1'-carbonyldiimidazole | 33.3 mmol, 5.40 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | BOC-glycine | 30.5 mmol, 5.40 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | (Z)-7-(amino-hydroxyiminomethyl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[3,2-f][1,4]diazepin-4-one | N\C(\C=1N=CN2C1CN(C(C1=C2SC=C1)=O)C)=N/O | C11H11N5O2S
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 7-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[3,2-f][1,4]diazepin-4-one | 8.40 g, 73% | C(=O)(OC(C)(C)C)C1=NC(N(O1)CN)C=1N=CN2C1CN(C(C1=C2SC=C1)=O)C | C18H22N6O4S
